US04251528
3-Chloro-4-bromobenzylhydrazine (2.5 g.) was added to a stirred mixture of 3-oxo-Δ1,α-phthalanacetic acid (also known as phthalideneacetic acid) (1.92 g.) and sodium hydrogen carbonate (2.0 g.) in dioxan (50 ml.) and water (25 ml.). The mixture was then heated under reflux for 3 hours, cooled to room temperature and poured into water (200 ml.). The aqueous solution was extracted with ether (3×100 ml.) and the aqueous phase was acidified with concentrated hydrochloric acid to pH 2. The solid which deposited was collected, washed well with water, dried in vacuo, and then recrystallised twice from a mixture of toluene isopropanol and petrol (60-80) (6:2:3 v/v/v) to give 2-(3-chloro-4-bromobenzyl)-1,2-dihydro-1-oxophthalazin-4-ylacetic acid (0.23 g.), m.p. 184°-186° C.

reactant | 3-Chloro-4-bromobenzylhydrazine | 2.5 g | ClC=1C=C(CNN)C=CC1Br | C7H8BrClN2
reactant | sodium hydrogen carbonate | 2.0 g | C(O)([O-])=O.[Na+]
reactant | dioxan | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 25 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 2-(3-chloro-4-bromobenzyl)-1,2-dihydro-1-oxophthalazin-4-ylacetic acid | 0.23 g | ClC=1C=C(CN2C(C3=CC=CC=C3C(=N2)CC(=O)O)=O)C=CC1Br | C17H12BrClN2O3
